US04599344
2-[3-(4-Chloro-3-((methylamino)carbonylamino)phenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride
To 6.14 g (0.02 mole) of 2-[3-(3-amino-4-chlorophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one in 150 ml of methylene chloride add 1.20 g (0.021 mole) of methyl isocyanate. Stir the reaction mixture at room temperature and follow the progress of the reaction by thin-layer chromatography. At the completion of the reaction remove the solvent in vacuo. Dissolve the residue in 100 ml of ethanol and add 2.5 ml of concentrated hydrochloric acid. Remove the solvent in vacuo to obtain the title compound.

reactant | 2-[3-(3-amino-4-chlorophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one | 0.02 mole, 6.14 g | NC=1C=C(C=CC1Cl)C(CCC1N2CCC(C1=O)CC2)=O | C16H19ClN2O2
reactant | methyl isocyanate | 0.021 mole, 1.20 g | CN=C=O | C2H3NO
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-(4-Chloro-3-((methylamino)carbonylamino)phenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride | Cl.ClC1=C(C=C(C=C1)C(CCC1N2CCC(C1=O)CC2)=O)NC(=O)NC | InChI=1S/C18H22ClN3O3.ClH/c1-20-18(25)21-14-10-12(2-3-13(14)19)16(23)5-4-15-17(24)11-6-8-22(15)9-7-11;/h2-3,10-11,15H,4-9H2,1H3,(H2,20,21,25);1H
